US06875884B1
To a solution of N-[3-[[2-(4-chlorophenyl)ethyl](ethyl)amino]propyl]-phthalimide (1.41 g, 3.8 mmol) in EtOH (20 ml) was added a solution of hydrazine monohydrate (1.5 g, 30 mmol) in EtOH (5 ml). The solution was stirred at RT for 4h, and then filtered. The filtrate was concentrated under vacuum to dryness. After adding water, the mixture was extracted with chloroform, washed with brine, dried over sodium sulfate, and filtered. Concentrating under vacuum gave N-[2-(4-chlorophenyl)ethyl]-N-ethyl-1,3-diaminopropane (903 mg, 99%) which was used in the next step without further purification.

reactant | N-[3-[[2-(4-chlorophenyl)ethyl](ethyl)amino]propyl]-phthalimide | 3.8 mmol, 1.41 g | ClC1=CC=C(C=C1)CCN(CCCN1C(C=2C(C1=O)=CC=CC2)=O)CC | C21H23ClN2O2
reactant | hydrazine monohydrate | 30 mmol, 1.5 g | O.NN
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | EtOH | 5 ml | CCO | C2H6O
product | N-[2-(4-chlorophenyl)ethyl]-N-ethyl-1,3-diaminopropane | 903 mg, 99% | ClC1=CC=C(C=C1)CCN(CCCN)CC | C13H21ClN2
